US09315458B2
J) 5-ethyl-6-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-((tetrahydrofuran-2-yl)methyl)isoindolin-1-one
A mixture of methyl 4-ethyl-2-formyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate (0.11 g), (tetrahydrofuran-2-yl)methanamine (0.03 g) and anhydrous magnesium sulfate (0.07 g) in THF (3.00 mL) was stirred overnight at room temperature. The insoluble substance was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was diluted with acetic acid (3.00 mL), sodium triacetoxyborohydride (0.09 g) was added thereto, and the mixture was stirred overnight at room temperature. The reaction mixture was neutralized with saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate/hexane), and crystallized from ethyl acetate/hexane to give the title compound (0.03 g).

reactant | methyl 4-ethyl-2-formyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate | 0.11 g | C(C)C1=CC(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)C1=NN(C=C1)C)C=O | C22H22N2O3
reactant | (tetrahydrofuran-2-yl)methanamine | 0.03 g | O1C(CCC1)CN | C5H11NO
reactant | magnesium sulfate | 0.07 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
product | 5-ethyl-6-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-((tetrahydrofuran-2-yl)methyl)isoindolin-1-one | 0.03 g | C(C)C=1C=C2CN(C(C2=CC1CC1=CC=C(C=C1)C1=NN(C=C1)C)=O)CC1OCCC1 | C26H29N3O2
